* Z:\mnt\design.r\spice\examples\2913-2.asc
R1 N004 N006 1K
R2 N002 N004 44.2K
R3 N006 0 4.53K
R4 N008 N009 1K
R5 N009 0 4.53K
R6 N001 N008 27.4K
C1 N011 0 10n
V1 N002 0 PWL(0 0 5 5 6 5 7 6 8 6 10 4 11 4 12 5 21 5 22 6 23 6 25 4 26 4 27 5)
V2 N001 0 PWL(0 0 3.3 3.3 13 3.3 14 4.3 15 4.3 17 2.3 18 2.3 19 3.3 28 3.3 29 4.3 30 4.3 32 2.3 33 2.3 34 3.3)
V3 N003 0 PWL(0 0 3.3 3.3 35 3.3 38.3 0 39.3 0 42.3 3.3)
R7 N003 N005 10K
R8 N003 N007 10K
V4 N010 0 PWL(0 0 22.399 0 22.4 3.3 22.6 3.3 22.601 0 32.399 0 32.4 3.3 32.6 3.3 32.601 0)
XU1 N004 N006 N008 N009 0 N007 N005 N010 N011 N003 LTC2913-2
.tran 45
.lib LTC2913-2.sub
.backanno
.end
